US06777417B2
Synthesis of [4-(3-{2-[5-methylsulfamoyl-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-4,5,6,7-tetrahydro-1H-indol-3-yl}-propyl)-piperazin-1-yl]-acetic acid
{(4-[3-(2-Formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propyl]-piperazin-1-yl}-acetic acid (50 mg, 0.15 mmol) was condensed with 5-methylaminosulfonyloxindole (40 mg, 0.15 mmol) following the procedure used in Example 1. The formed solid was purified by flash chromatography, eluting with (dichloromethane: methanol 6:1 followed by 4:1:0.01 acetic acid) to give 65 mg of the desired product.

reactant | (4-[3-(2-Formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propyl]-piperazin-1-yl}-acetic acid | 0.15 mmol, 50 mg | C(=O)C=1NC=2CCCCC2C1CCCN1CCN(CC1)CC(=O)O | C18H27N3O3
reactant | 5-methylaminosulfonyloxindole | 0.15 mmol, 40 mg | CNS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C9H10N2O3S
product | [4-(3-{2-[5-methylsulfamoyl-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-4,5,6,7-tetrahydro-1H-indol-3-yl}-propyl)-piperazin-1-yl]-acetic acid | 65 mg | CNS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC=2CCCCC2C1CCCN1CCN(CC1)CC(=O)O | C27H35N5O5S
